US06900227B2
Preparation of [2-(2,4-Dichloro-phenyl)-6-fluoro-2-(4-fluoro-phenyl)-benzo[1,3]dioxol-5-yl]-(3,4-cis-dihydroxy-pyrrolidin-1-yl)-methanone
To a solution of [2-(2,4-dichloro-phenyl)-6-fluoro-2-(4-fluoro-phenyl)-benzo[1,3]dioxol-5-yl]-(2,5-dihydro-pyrrol-1-yl)-methanone (70 mg, 0.15 mmol) in acetone (3.7 mL) and water (1.5 mL), 4-methylmorpholine-4-oxide monohydrate (23 mg, 0.16 mmol), osmium tetroxide (0.02 mL, 0.0015 mmol) and potassium osmate (VI) dihydrate (2.4 mg, 0.0065 mmol) were added and the reaction stirred 24 h at 20° C. Sodium thiosulfate pentahydrate was added, the reaction mixture was stirred 30 min. and poured onto crushed ice. The aqueous phase was extracted twice with ethyl acetate and the combined organic phases were washed with brine, dried over sodium sulfate, filtered and the volatiles removed in vacuo. Purification by flash chromatography afforded the title product as a black oil (56 mg, 74%).

reactant | [2-(2,4-dichloro-phenyl)-6-fluoro-2-(4-fluoro-phenyl)-benzo[1,3]dioxol-5-yl]-(2,5-dihydro-pyrrol-1-yl)-methanone | 0.15 mmol, 70 mg | ClC1=C(C=CC(=C1)Cl)C1(OC2=C(O1)C=C(C(=C2)C(=O)N2CC=CC2)F)C2=CC=C(C=C2)F | C24H15Cl2F2NO3
reactant | 4-methylmorpholine-4-oxide monohydrate | 0.16 mmol, 23 mg | O.C[N+]1(CCOCC1)[O-]
reactant | Sodium thiosulfate pentahydrate | O.O.O.O.O.S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | acetone | 3.7 mL | CC(=O)C | C3H6O
solvent | water | 1.5 mL | O | H2O
catalyst | osmium tetroxide | 0.0015 mmol, 0.02 mL | [Os](=O)(=O)(=O)=O
catalyst | potassium osmate (VI) dihydrate | 0.0065 mmol, 2.4 mg | O.O.[O-][Os](=O)(=O)[O-].[K+].[K+]
product | [2-(2,4-Dichloro-phenyl)-6-fluoro-2-(4-fluoro-phenyl)-benzo[1,3]dioxol-5-yl]-(3,4-cis-dihydroxy-pyrrolidin-1-yl)-methanone | 56 mg, 74% | ClC1=C(C=CC(=C1)Cl)C1(OC2=C(O1)C=C(C(=C2)C(=O)N2C[C@H]([C@H](C2)O)O)F)C2=CC=C(C=C2)F | C24H17Cl2F2NO5
